US09447090B2
To a solution of 1 g of (2R)-2-[(tert-butoxycarbonyl)amino]-2-phenylethyl methanesulfonate in 5 mL of THF were added 0.4 mL of ethyl piperidine-4-carboxylate and 1 mL of diisopropylethylamine, followed by stirring at 70° C. for 14 hours, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 160 mg of ethyl 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-phenylethyl}piperidine-4-carboxylate.

reactant | (2R)-2-[(tert-butoxycarbonyl)amino]-2-phenylethyl methanesulfonate | 1 g | CS(=O)(=O)OC[C@@H](C1=CC=CC=C1)NC(=O)OC(C)(C)C | C14H21NO5S
reactant | ethyl piperidine-4-carboxylate | 0.4 mL | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | diisopropylethylamine | 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-phenylethyl}piperidine-4-carboxylate | 160 mg | C(C)(C)(C)OC(=O)N[C@@H](CN1CCC(CC1)C(=O)OCC)C1=CC=CC=C1 | C21H32N2O4
